US04423070
A suspension of 2[1,1-dimethyl-2-(2-phenoxyacetamido)ethyl]amino-3',4'-bis(benzyloxy)acetophenone hydrobromide (1.26 g.) in 2-propanol (10 ml.) was cooled to -10° C. and sodium borohydride (0.22 g.) was added in two portions interspersed by a a portion of methanol (10 ml.). The reaction mixture was allowed to warm to 10° C. After 30 minutes at this temperature, a saturated aqueous solution (100 ml.) of sodium chloride was added and the mixture was extracted with ether (3×100 ml.). The combined ether extracts were washed with water (100 ml.) and then brine (100 ml.), dried (MgSO4) and evaporated to give 1-[3,4-bis(benzyloxy)phenyl]-2-[1,1-dimethyl-2-(2-phenoxyacetamido)ethylamino]ethanol as a sticky residue (1.2 g.). This residue was dissolved in ethanol (30 ml.) and benzyl bromide (0.24 ml.) was then added. The mixture was hydrogenated at atmospheric pressure and temperature in the presence of 10% w/w palladium-on-carbon (0.4 g.) for 3 hours. The catalyst was separated by filtration, washed with ethanol (10 ml.) and the combined filtrate and washings evaporated to give 1-(3,4-dihydroxyphenyl)-2-[1,1-dimethyl-2-(2-phenoxyacetamido)ethylamino]ethanol hydrobromide as a foam (0.8 g.) having a satisfactory NRM spectrum and sufficiently pure for direct use in the above procedure.

reactant | 2[1,1-dimethyl-2-(2-phenoxyacetamido)ethyl]amino-3',4'-bis(benzyloxy)acetophenone hydrobromide | 1.26 g | Br.CC(CNC(COC1=CC=CC=C1)=O)(C)NCC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1
reactant | sodium borohydride | 0.22 g | [BH4-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 1-[3,4-bis(benzyloxy)phenyl]-2-[1,1-dimethyl-2-(2-phenoxyacetamido)ethylamino]ethanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C(CNC(CNC(COC1=CC=CC=C1)=O)(C)C)O | C34H38N2O5
